US08242280B2
3-(2-Fluoro-phenyl)-5-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-1-(2-trimethylsilanyl-ethoxymethyl)-1H-pyrrolo[2,3-b]pyridine (289 mg, 0.617 mmol), 2-(2-amino-5-bromo-pyridin-3-yl)-2-hydroxy-N,N-dimethyl-acetamide (168.5 mg, 0.617 mmol) and dichloro[1,1′-bis(diphenyl-phosphino)ferrocene]palladium(II) dichloromethane adduct (25 mg, 0.031 mmol) were combined in 1:1 acetonitrile/tetrahydrofuran (4 mL) under nitrogen. Saturated sodium bicarbonate was added (4 mL), also under nitrogen, and the mixture was capped and heated for 18 h at 80° C. After cooling, the aqueous layer was removed and the organic layer was purified by silica gel chromatography using DCM and MeoH as eluent to afford 2-{2-Amino-5-[3-(2-fluoro-phenyl)-1-(2-trimethylsilanyl-ethoxymethyl)-1H-pyrrolo[2,3-b]pyridin-5-yl]-pyridin-3-yl}-2-hydroxy-N,N-dimethyl-acetamide (130 mg, 39.3%). MS: m/z 536 (M+H+).

reactant | 3-(2-Fluoro-phenyl)-5-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-1-(2-trimethylsilanyl-ethoxymethyl)-1H-pyrrolo[2,3-b]pyridine | 0.617 mmol, 289 mg | FC1=C(C=CC=C1)C1=CN(C2=NC=C(C=C21)B2OC(C(O2)(C)C)(C)C)COCC[Si](C)(C)C | C25H34BFN2O3Si
reactant | 2-(2-amino-5-bromo-pyridin-3-yl)-2-hydroxy-N,N-dimethyl-acetamide | 0.617 mmol, 168.5 mg | NC1=NC=C(C=C1C(C(=O)N(C)C)O)Br | C9H12BrN3O2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | acetonitrile tetrahydrofuran | 4 mL | C(C)#N.O1CCCC1
product | 2-{2-Amino-5-[3-(2-fluoro-phenyl)-1-(2-trimethylsilanyl-ethoxymethyl)-1H-pyrrolo[2,3-b]pyridin-5-yl]-pyridin-3-yl}-2-hydroxy-N,N-dimethyl-acetamide | 130 mg, 39.3% | NC1=NC=C(C=C1C(C(=O)N(C)C)O)C=1C=C2C(=NC1)N(C=C2C2=C(C=CC=C2)F)COCC[Si](C)(C)C | C28H34FN5O3Si
